US05212187
N-[7-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]heptyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]urea
Preparation is effected analogously to Example 63, using 0.59 g (1.6 mmol) of N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,7-heptanediamine and the equimolar amounts of 1,1'-carbonyldiimidazole and 3-[3-(piperidinomethyl)phenoxy]propylamine as starting materials. Working up by chromatography analogously to Example 63 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int. [%])=647 ([M+H]+, 7), 229 (100); IR (KBr): 1634 cm-1 (C=O). For further analysis, a portion of the compound is converted into the O,O'-ditoluoyltartaric acid salt and recrystallised from isopropanol/ether; m.p.: 112° C. (isopropanol/ether).

reactant | N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,7-heptanediamine | 1.6 mmol, 0.59 g | FC1=CC=C(CN(C2=NC=CC=C2)CCN(CCCCCCCN)C)C=C1 | C22H33FN4
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-[3-(piperidinomethyl)phenoxy]propylamine | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
product | N-[7-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]heptyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]urea | FC1=CC=C(CN(C2=NC=CC=C2)CCN(C)CCCCCCCNC(=O)NCCCOC2=CC(=CC=C2)CN2CCCCC2)C=C1 | C38H55FN6O2
